US07202363B2
N-(4-{4-amino-7-[(3-morpholin-4-ylpropanoyl)amino]thieno[3,2-c]pyridin-3-yl}-2-methoxyphenyl)-1-methyl-1H-indole-2-carboxamide
The title compound was prepared using 1-methyl-1H-indole-2-carbonyl chloride, N-[4-amino-3-(4-amino-3-methoxyphenyl)thieno[3,2-c]pyridin-7-yl]-3-morpholin-4-ylpropanamide, and the procedure described in General Procedure F. m/z (M+H)+ 585.4.

reactant | 1-methyl-1H-indole-2-carbonyl chloride | CN1C(=CC2=CC=CC=C12)C(=O)Cl | C10H8ClNO
reactant | N-[4-amino-3-(4-amino-3-methoxyphenyl)thieno[3,2-c]pyridin-7-yl]-3-morpholin-4-ylpropanamide | NC1=NC=C(C2=C1C(=CS2)C2=CC(=C(C=C2)N)OC)NC(CCN2CCOCC2)=O | C21H25N5O3S
product | N-(4-{4-amino-7-[(3-morpholin-4-ylpropanoyl)amino]thieno[3,2-c]pyridin-3-yl}-2-methoxyphenyl)-1-methyl-1H-indole-2-carboxamide | NC1=NC=C(C2=C1C(=CS2)C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)NC(CCN2CCOCC2)=O | C31H32N6O4S
